US04115575
4 ml of a 2 N solution of hydrogen chloride in methanol are added to a solution of 3.6 g of 2-(3'-amino-2'-hydroxy-propoxy)-3-methyl-pyridine and 1.5 g of sodium cyanoborohydride in 70 ml of methanol and 12 ml of acetone are added dropwise over the course of approx. 30 minutes, whilst stirring. The reaction mixture is stirred overnight at room temperature and is then evaporated in vacuo and the residue is acidified with 2 N hydrochloric acid. The aqueous solution is extracted once by shaking with 30 ml of ether. The hydrochloric acid phase is separated off and rendered alkaline with concentrated sodium hydroxide solution. 2-(2'-Hydroxy-3'-isopropylamino-propoxy)-3-methyl-pyridine is isolated by extraction with ethyl acetate and is identical with the material described in Example 21.

reactant | hydrogen chloride | Cl | ClH
reactant | 2-(3'-amino-2'-hydroxy-propoxy)-3-methyl-pyridine | 3.6 g | NCC(COC1=NC=CC=C1C)O | C9H14N2O2
reactant | sodium cyanoborohydride | 1.5 g | C(#N)[BH3-].[Na+]
reactant | acetone | 12 ml | CC(=O)C | C3H6O
solvent | methanol | CO | CH4O
solvent | methanol | 70 ml | CO | CH4O
product | 2-(2'-Hydroxy-3'-isopropylamino-propoxy)-3-methyl-pyridine | OC(COC1=NC=CC=C1C)CNC(C)C | C12H20N2O2
